US04443617
1.3 ml of a cyclohexane solution of 1.95 M of butyllithium was slowly added with stirring at -70° C. under an inert atmosphere to a mixture of 500 mg of isopropyl-p-tolyl sulfone and 10 ml of anhydrous tetrahydrofuran and the mixture was stirred at -70° C. for 30 minutes. A solution of 287 mg of 5-methoxy-2,5-dihydrofuran-2-one in 4 ml of tetrahydrofuran was added to the mixture over 10 minutes and the mixture was held at -70° C. for one hour and was then poured into aqueous monosodium phosphate solution at 0° C. The mixture was extracted with methylene chloride and the organic phase was washed with water, dried and evaporated to dryness under reduced pressure. The residue was crystallized from isopropyl ether to obtain 490 mg of trans dl 4-(2-p-toluenesulfonyl-prop-2-yl)-5-methoxy-tetrahydrofuran-2-one in the form of white crystals melting at 129° C.

reactant | butyllithium | 1.95 M | C(CCC)[Li]
reactant | isopropyl-p-tolyl sulfone | 500 mg | C(C)(C)S(=O)(=O)C1=CC=C(C=C1)C | C10H14O2S
reactant | 5-methoxy-2,5-dihydrofuran-2-one | 287 mg | COC1C=CC(O1)=O | C5H6O3
reactant | monosodium phosphate | P(=O)([O-])(O)O.[Na+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | cyclohexane | 1.3 ml | C1CCCCC1 | C6H12
product | 4-(2-p-toluenesulfonyl-prop-2-yl)-5-methoxy-tetrahydrofuran-2-one | C1(=CC=C(C=C1)S(=O)(=O)C(C)(C)C1CC(OC1OC)=O)C | C15H20O5S
